US06414145B1
Preparation of methyl (2S)-2-{3-[(E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)-prop-1-enyl]-benzamido}-2-methyl-4-methylsulfanylbutanoate
To a mixture of 3-((E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)-prop-1-enyl)benzoic acid (0.50 g, 1.55 mmol; prepared as the product of step D in Example 1), EDC (0.30 g, 1.55 mmol) and HOBt (0.21 g, 1.55 mmol) in dichloromethane (20 ml) was added α-methyl methionine methyl ester (0.33 g, 1.55 mmol) and 4-methylmorpholine (0.17 ml, 1.55 mmol). The solution was stirred at room temperature for 17 hrs, washed with brine (3×40 ml) dried over (MgSO4) and the solvent evaporated to leave a yellow gum. This was purified by chromatography (Biotage flash 40, 40 g SiO2 cartridge) eluting a gradient of 0-1% 0.88 aqueous ammonia/EtOAc to give the desired end product as a yellow gum 0.38 g (50%).

reactant | 3-((E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)-prop-1-enyl)benzoic acid | FC1=CC=C(C=C1)\C(=C/C=1C=C(C(=O)O)C=CC1)\CN1C=NC=C1 | C19H15FN2O2
reactant | EDC | 1.55 mmol, 0.30 g
reactant | HOBt | 1.55 mmol, 0.21 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | α-methyl methionine methyl ester | 1.55 mmol, 0.33 g | COC([C@@](N)(CCSC)C)=O | C7H15NO2S
reactant | 4-methylmorpholine | 1.55 mmol, 0.17 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl (2S)-2-{3-[(E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)-prop-1-enyl]-benzamido}-2-methyl-4-methylsulfanylbutanoate | 0.38 g, 50% | FC1=CC=C(C=C1)\C(=C/C=1C=C(C(=O)N[C@](C(=O)OC)(CCSC)C)C=CC1)\CN1C=NC=C1 | C26H28FN3O3S
